US08026359B2
Step A: Preparation of 4-(2-chloro-4-pyridinyl)-N-cyclopentyl-2-pyrimidinamine
Cyclopentylamine (3 mL) was combined with 2-chloro-4-(2-chloro-4-pyridinyl)pyrimidine (i.e., the product of Example 6, Step A) (300 mg, 1.3 mmol) and stirred at 55° C. for 2 hours. The resulting suspension was filtered, and the collected solid was oven dried at 50° C. in vacuo to give 340 mg of the title compound as a brown solid.

reactant | Cyclopentylamine | 3 mL | C1(CCCC1)N | C5H11N
reactant | 2-chloro-4-(2-chloro-4-pyridinyl)pyrimidine | ClC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C9H5Cl2N3
product | 4-(2-chloro-4-pyridinyl)-N-cyclopentyl-2-pyrimidinamine | 340 mg | ClC1=NC=CC(=C1)C1=NC(=NC=C1)NC1CCCC1 | C14H15ClN4
